Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:9]([C:6]([C:4]([H:5])=[C:13]([H:14])[H:15])([H:7])[H:8])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]1([H:14])[H:15],0.603481531661
[H:6].[O:1][O:2][C:3]([H:4])[C:5][C:7]#[C:8][H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9],-4.57669312727
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-8.15803614
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-0.35421035659
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],2.32995954835
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.11622892213
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.58241502109
[C:1]([H:4])=[C:5]([H:6])[H:7].[C:2](#[C:3])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.947572739790001
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:9][H:10].[H:8],4.1370200643400015
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.996652465507
[C:1].[C:2]([H:3])[H:4]>>[C:1]=[C:2]([H:3])[H:4],-7.984333972589999
[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.602700228210001
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.64628809649
[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.4402011223599995
[H:1][C:2](=[C:3][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14])[H:5].[H:4][C:6]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.6256372412600002
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.06881461535
[H:3].[O:1]=[C:2][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.94806413137
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.14659992962
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.00727615427
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4],1.49825616653
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9].[O:10]=[C:11]([H:12])[H:13],1.6967023838600002
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.522909419019999
[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.35565154298
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:6],1.92598110029
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.847048384180001
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.2076502414
